US08293768B2
Synthesis of 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyrimidin-4-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 32, making variations as required to replace 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid to react with pyrimidin-4-ylmethanamine, the title compound was obtained as a colorless solid in 71% yield: mp 175-176° C.; 1H NMR (300 MHz, CDCl3) δ 9.18 (s, 1H), 8.69 (d, J=6.0 Hz, 1H), 7.35-7.25 (m, 3H), 7.07-7.02 (m, 2H), 6.94 (br s, 1H), 4.70 (d, J=6.0 Hz, 2H), 4.47 (s, 2H), 4.10 (t, J=9.0 Hz, 2H), 3.47 (t, J=9.0 Hz, 2H), 2.64 (s, 3H); MS (ES+) m/z 427.2 (M+1).

reactant | 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | ClC1=CC2=C(SC=C2CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C17H14ClN3O3S2
reactant | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C15H14FN3O3S
reactant | pyrimidin-4-ylmethanamine | N1=CN=C(C=C1)CN | C5H7N3
product | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyrimidin-4-ylmethyl)thiazole-5-carboxamide | 71% yield | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)NCC2=NC=NC=C2)=O)C=C1 | C20H19FN6O2S
